US07910592B2
A mixture of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5-iodo-2-(trifluoromethyl)pyridin-4-yl]methyl}-4-methyl-1,3-oxazolidin-2-one (9.7 mg, 0.0162 mmol), (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid (5.2 mg, 0.0243 mmol), and 1,1′-bis(di-t-butylphosphinoferrocene)palladium dichloride (1.0 mg, 0.00162 mmol) in 1N aqueous potassium carbonate (0.7 mL) and THF (0.7 mL) was heated at 85° C. in a sealed tube for 2 h. The reaction mixture was cooled to room temperature and water (10 mL) was added. The mixture was extracted with EtOAc (3×20 mL) and the combined organic extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-40% EtOAc in hexanes gradient) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2-(trifluoromethyl)pyridin-4-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. Rf=0.40 (20% EtOAc/hexanes). LCMS calc. 639.2; found 639.2 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers): δ 8.55 (s, 1H); 7.87 (s, 1H); 7.74-7.68 (m, 3H); 7.02 (dd, J=4.5, 8.1 Hz, 1H); 6.72 (d, J=11.7 Hz, 1H); 5.64 (d, J=8.0 Hz, 0.5H); 5.48 (d, J=7.9 Hz, 0.5H); 4.84 (d, J=16.4 Hz, 0.5H); 4.77 (d, J=16.5 Hz, 0.5H); 4.21 (d, J=16.5 Hz, 0.5H); 3.96 (d, J=16.3 Hz, 0.5H); 3.92-3.85 (m, 0.5H); 3.8-3.73 (m, 3.5H); 3.25-3.17 (m, 1H); 1.30-1.18 (m, 6H); 0.56 (d, J=6.4 Hz, 1.5H); 0.42 (d, J=6.5 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5-iodo-2-(trifluoromethyl)pyridin-4-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | 0.0162 mmol, 9.7 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=CC(=NC=C1I)C(F)(F)F)C)(F)F | C19H12F9IN2O2
reactant | (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid | 0.0243 mmol, 5.2 mg | FC1=CC(=C(C=C1C(C)C)B(O)O)OC | C10H14BFO3
reactant | water | 10 mL | O | H2O
solvent | potassium carbonate | 1N, 0.7 mL | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2-(trifluoromethyl)pyridin-4-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=CC(=NC=C1C1=C(C=C(C(=C1)C(C)C)F)OC)C(F)(F)F)C)(F)F | C29H24F10N2O3
